US08471005B2
[4-(4-Methyl-piperazin-1-yl)-phenyl]-(7-quinolin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine and 3-quinolineboronic acid in an analogous manner to Example 1031b. Product isolated as a yellow solid (49 mg, 40%). m.p.=235-241° C.; LCMS (m/e) 436 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 9.38 (s, 1H), 9.34 (s, 1H), 8.76 (s, 1H), 8.13 (d, 1H, J=9.1 Hz), 7.85 (d, 1H, J=7.0 Hz), 7.80-7.69 (m, 1H), 7.63-7.52 (m, 3H), 7.25-7.17 (m, 1H), 6.98 (d, 2H, J=7.9 Hz), 6.93-6.86 (m, 1H), 6.70 (s, 1H), 3.29-3.19 (m, 4H), 2.69-2.57 (m, 4H), 2.39 (s, 3H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 3-quinolineboronic acid | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]-(7-quinolin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC1=CC=CC=C1C2 | C26H25N7
